US09403846B2
Step 7. Synthesis of rel-(1R)-1-[(2R,4R,5S)-5-amino-2-cyclopropyl-5-(2,4-difluorophenyl)tetrahydro-2H-pyran-4-yl]-2-methoxyethanol (C40)
Zinc powder (2.22 g, 34.0 mmol) was added to a solution of rel-(3R,3aR,5R,7aS)-5-cyclopropyl-7a-(2,4-difluorophenyl)-3-(methoxymethyl)hexahydro-1H-pyrano[3,4-c][1,2]oxazole (C39) (850 mg, 2.61 mmol) in acetic acid (9 mL), and the resulting mixture was allowed to cool to room temperature and stir for 5 hours. The mixture was filtered through Celite, and the filtrate was concentrated in vacuo to afford the product as an oil. Yield: 845 mg, 2.58 mmol, 99%. LCMS m/z 328.2 [M+H+].

reactant | rel-(3R,3aR,5R,7aS)-5-cyclopropyl-7a-(2,4-difluorophenyl)-3-(methoxymethyl)hexahydro-1H-pyrano[3,4-c][1,2]oxazole | 2.61 mmol, 850 mg | C1(CC1)[C@H]1C[C@@H]2[C@@](NO[C@H]2COC)(CO1)C1=C(C=C(C=C1)F)F | C17H21F2NO3
solvent | acetic acid | 9 mL | C(C)(=O)O | C2H4O2
catalyst | Zinc | 34.0 mmol, 2.22 g | [Zn] | Zn
product | rel-(1R)-1-[(2R,4R,5S)-5-amino-2-cyclopropyl-5-(2,4-difluorophenyl)tetrahydro-2H-pyran-4-yl]-2-methoxyethanol | N[C@@]1([C@@H](C[C@@H](OC1)C1CC1)[C@H](COC)O)C1=C(C=C(C=C1)F)F | C17H23F2NO3
